US06750226B2
Preparation of (Furan-2-yl)hydroxyphenylacetic Acid 1-azabicyclo[2.2.2]oct-3(R)-yl Ester
Phenylmagnesium bromide, 0.0057 mol (5.7 ml of a solution 1M in THF), was added to a solution of 1.3 g (0.0052 mol) of oxofuran-2-ylacetic acid 1-azabicyclo[2.2.2]oct-3(R)-yl ester (intermediate I-4e-) dissolved in 15 ml of THF, at −701C in N2 atmosphere. The mixture was stirred at this temperature for 10 minuts, and then warmed to room temperature. After 1 hour, the reaction mixture was treated with a saturated solution of ammonium chloride and extracted three times with ethyl acetate The organic phases were combined, washed with water and dried over Na2SO4. After removal of the solvent, the solid obtained was treated with ether and filtered to yield 0.67 g (40%) of a product whose structure was confirmed by 1H-NMR. This compound was also prepared as is described in Example I-la (Method c). The diastereomers were separated by crystallization from acetonitrile and distinguished by 1H-NMR.

reactant | Phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | oxofuran-2-ylacetic acid 1-azabicyclo[2.2.2]oct-3(R)-yl ester | 0.0052 mol, 1.3 g | N12C[C@@H](C(CC1)CC2)OC(C(C=2OC=CC2)=O)=O | C13H15NO4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | N2 | N#N | N2
product | (Furan-2-yl)hydroxyphenylacetic Acid 1-azabicyclo[2.2.2]oct-3(R)-yl Ester | 0.67 g, 40% | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(O)C=2OC=CC2)=O | C19H21NO4
